US06194574B1
B. Ethyl 2-amino-1-(2,4,6trimethylphenyl)indolizine-3-carboxylate
Ethyl bromoacetate (23 mL; 0.21 mol) is added slowly dropwise over a 3-hour period to a mixture of 2-(2-pyridinyl)-2-(2,4,6-trimethylphenyl)-ethanenitrile (22.3 g; 0.094 mol) and potassium carbonate (78 g; 0.57 mol) suspended in DMSO (100 mL). The mixture is stirred for 1 day, poured into an aqueous ammonium chloride solution (ca. 1 L), and extracted with three 200 mL portions of ethyl ether. Combined extracts are washed with saturated brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue is dissolved in THF (200 mL), cooled to 0° C., and potassium t-butoxide (12 g; 0.11 mol) is added slowly in portions over a 10-minute period. After 30 minutes at 0° C., the mixture is diluted with aqueous ammonium chloride and extracted twice with 150 mL portions of 50% ethyl ether in hexane. The combined extracts are washed with saturated brine, dried (Na2SO4), filtered, concentrated in vacuo, and chromatographed (5 to 10% ethyl acetate in hexane) to give 19.2 g of the title compound as an oil (63%): 1H nmr (400 MHz, CDCl3) d 1.47 (t, 3 H), 2.06 (s, 6 H), 2.35 (s, 3 H), 4.46 (br q, 2 H), 6.6 (br t, 1 H), 6.75 (d, 1 H), 6.9 (br t, 1 H), 7.00 (s, 2 H), 9.4 (br 1 H).

reactant | Ethyl bromoacetate | 0.21 mol, 23 mL | BrCC(=O)OCC | C4H7BrO2
reactant | 2-(2-pyridinyl)-2-(2,4,6-trimethylphenyl)-ethanenitrile | 0.094 mol, 22.3 g | N1=C(C=CC=C1)C(C#N)C1=C(C=C(C=C1C)C)C | C16H16N2
reactant | potassium carbonate | 0.57 mol, 78 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium t-butoxide | 0.11 mol, 12 g | CC(C)([O-])C.[K+]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ammonium chloride | ca. 1 L | [Cl-].[NH4+]
product | Ethyl 2-amino-1-(2,4,6trimethylphenyl)indolizine-3-carboxylate | 19.2 g, 63% | NC=1C(=C2C=CC=CN2C1C(=O)OCC)C1=C(C=C(C=C1C)C)C | C20H22N2O2
